US04304937
In a 100 ml three-necked flask were charged 2 g of pyridine-3-aldehyde, 50 g of a 30 weight percent aqueous ethylamine solution and 3 g of the same commercially available palladium catalyst as in Example 1. The reaction was conducted at a reaction temperature of 30° C. for 2 hours by introducing oxygen at a rate of 10 l/hour into the flask from its gas inlet equipped with a filter to give nicotinic acid monoethylamide at a yield of 47%.

reactant | pyridine-3-aldehyde | 2 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | ethylamine | C(C)N | C2H7N
reactant | oxygen | O=O | O2
catalyst | palladium | [Pd] | Pd
product | nicotinic acid monoethylamide | yield of 47% | C(C)NC(C1=CN=CC=C1)=O | C8H10N2O
